US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-n-propylbenzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 with 4-bromo-3-methyl-5-aminoisoxazole (0.68 mmoles, 0.12 g) NaH (1.7 mmoles, 6.8 mg), 2-n-propylbenzo[b]thiophene-3-sulfonyl chloride (0.82 mmoles, 0.23 g) and THF (3 ml). Recrystallization from chloroform and hexanes provided 0.19 g (67%) of a yellow crystalline solid, m.p. 136°-138° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 0.68 mmoles, 0.12 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | 2-n-propylbenzo[b]thiophene-3-sulfonyl chloride | 0.82 mmoles, 0.23 g | C(CC)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C11H11ClO2S2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-n-propylbenzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CCC)C=CC=C2)C | C15H15BrN2O3S2
